US08476294B2
Stage 215.1.2 2-(5-Bromo-pyridin-3-yl)-propan-2-ol
To a solution of 3,5-dibromopyridine (Aldrich, Buchs, Switzerland, 4.6 mmol) in dry THF under Ar was added slowly a ˜2 M solution of isopropylmagnesium chloride in THF (2.76 ml). The RM was stirred for 2 h at it then was added acetone (6.9 mmol) and the RM was stirred for 2 h at rt. The RM was quenched with brine and extracted with EtOAc (2×). The combined organic layers were washed with brine, dried over Na2SO4, filtered and evaporated. The residue was absorbed on silica gel and purified by flash chromatography (heptane/EtOAc 0% to 70%). The fractions containing product were evaporated together to give the title compound as an oil. (HPLC: tR 1.82 min (Method A); M+H=216, 218 MS-ES)

reactant | 3,5-dibromopyridine | 4.6 mmol | BrC=1C=NC=C(C1)Br | C5H3Br2N
reactant | isopropylmagnesium chloride | C(C)(C)[Mg]Cl
reactant | acetone | 6.9 mmol | CC(=O)C | C3H6O
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 2.76 ml | C1CCOC1 | C4H8O
product | 2-(5-Bromo-pyridin-3-yl)-propan-2-ol | BrC=1C=C(C=NC1)C(C)(C)O | C8H10BrNO
